US07875639B2
Adamantane-1-carboxylic acid (5,6-dihydro-4H-cyclopentathiazol-2-yl)-amide
A mixture of 5,6-dihydro-4H-cyclopentathiazole-2-ylamine hydrochloride (400 mg, 2.27 mmol), 1-adamantanecarbonyl chloride (540 mg, 2.72 mmol), 4-dimethylaminopyridine (100 mg, 0.82 mmol) and triethylamine (632 μL, 4.54 mmol) in 30 mL of THF was processed according to the method of Example 1A to afford the title compound: MS (DCI/NH3) m/z 303 (M+H)+.

reactant | 5,6-dihydro-4H-cyclopentathiazole-2-ylamine hydrochloride | 2.27 mmol, 400 mg | Cl.S1C(=NC2=C1CCC2)N
reactant | 1-adamantanecarbonyl chloride | 2.72 mmol, 540 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 4.54 mmol, 632 μL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.82 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Adamantane-1-carboxylic acid (5,6-dihydro-4H-cyclopentathiazol-2-yl)-amide | S1C(=NC2=C1CCC2)NC(=O)C21CC3CC(CC(C2)C3)C1 | C17H22N2OS
